### PR TITLE
lemmas from mathcomp-analysis

### PR DESCRIPTION
**Pull request by affeldt-aist**
Co-authored-by: Laurent Théry <Laurent.Thery@inria.fr>

##### Motivation for this change

These are two lemmas for which we had a use in this PR to mathcomp-analysis: https://github.com/math-comp/analysis/pull/383/

@thery 

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
~~- [ ] added corresponding documentation in the headers~~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

File: mathcomp/algebra/ssralg.v [hunk 1]
```diff
@@ -4944,6 +4944,11 @@ Proof. by move=> nzy1 nzy2; rewrite invfM mulrDl !mulrA mulrAC !mulfK. Qed.
 Lemma mulf_div x1 y1 x2 y2 : (x1 / y1) * (x2 / y2) = (x1 * x2) / (y1 * y2).
 Proof. by rewrite mulrACA -invfM. Qed.
 
+Lemma divr_eq x y z t : y != 0 -> t != 0 -> (x / y == z / t) = (x * t == z * y).
```
Comment (thery) [inline mathcomp/algebra/ssralg.v:4947]: This subsumes `divq_eq` in `rat.v`. Maybe removing `divq_eq` should be part of this PR. We could also borrow its proof that is  less cryptic 
```coq
Lemma divr_eq x y z t : y != 0 -> t != 0 -> (x / y == z / t) = (x * t == z * y).
Proof.
move=> x_neq0 y_neq0; rewrite -(inj_eq (@mulIf _ (y * t) _)) ?mulf_neq0 //.
by rewrite mulrA divfK // mulrCA divfK // [z * _ ]mulrC.
Qed.
```

File: mathcomp/algebra/ssrnum.v [hunk 2]
```diff
@@ -4341,6 +4341,13 @@ move=> b_gt0; have [a_le0|a_gt0] := ler0P a; last first.
 by rewrite ler0_sqrtr // sqrtr_gt0 b_gt0 (le_lt_trans a_le0).
 Qed.
 
+Lemma sqrtrV x : 0 <= x -> sqrt (x^-1) = (sqrt x)^-1.
```
Comment (thery) [inline mathcomp/algebra/ssrnum.v:4344]: Maybe this is better
```coq
Lemma sqrtrV x : 0 <= x -> sqrt (x^-1) = (sqrt x)^-1.
Proof.
case: ltrgt0P => // [x_gt0 _|->]; last by rewrite !(invr0, sqrtr0).
have sx_neq0 : sqrt x != 0 by rewrite sqrtr_eq0 -ltNge.
apply: (mulfI sx_neq0).
by rewrite -sqrtrM !(divff, ltW, sqrtr1) //; case: ltrgt0P x_gt0.
Qed.
```

File: mathcomp/algebra/ssralg.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/algebra/ssralg.v:4947]: Shouldn't it actually be `eqr_div`?
